US05434154
1-(3-Methoxy-4-pyridinyl)piperazine.
A solution of methyl 4-(3-methoxy-4-pyridinyl)-1-piperazinecarboxylate (1.2 g, 4.7 mmol) in 50 mL of EtOH containing 1 mL of 85% hydrazine hydrate and potassium hydroxide (12 g, 210 mol) was heated to reflux for 12 h. The reaction mixture was cooled, concentrated in vacuo and the residue dissolved in EtOAc. The organic extracts were dried (brine, MgSO4), filtered and concentrated in vacuo. Silica gel chromatography (3:1:0.01 CH2Cl2 -MeOH-Et3N) of the residue gave the desired compound (0.42 g, 46%).

reactant | methyl 4-(3-methoxy-4-pyridinyl)-1-piperazinecarboxylate | 4.7 mmol, 1.2 g | COC=1C=NC=CC1N1CCN(CC1)C(=O)OC | C12H17N3O3
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | 210 mol, 12 g | [OH-].[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-(3-Methoxy-4-pyridinyl)piperazine | 0.42 g, 46% | COC=1C=NC=CC1N1CCNCC1 | C10H15N3O
